US04435390
15.0 g of 11β,17,21-trihydroxy-6α-methyl-1,4-pregnadiene-3,20-dione is reacted analogously to Example 4(a) with 3-ethoxypropionic acid chloride, worked up, and purified, thus isolating 13.6 g of 21-(3-ethoxypropionyloxy)-11β,17-dihydroxy-6α-methyl-1,4-pregnadiene-3,20-dione, mp 186° C.

reactant | 11β,17,21-trihydroxy-6α-methyl-1,4-pregnadiene-3,20-dione | 15.0 g | O[C@@H]1[C@@H]2[C@]3(C=CC(C=C3[C@H](C[C@H]2[C@@H]2CC[C@](C(CO)=O)([C@]2(C1)C)O)C)=O)C | C22H30O5
reactant | 3-ethoxypropionic acid chloride | C(C)OCCC(=O)Cl | C5H9ClO2
product | 21-(3-ethoxypropionyloxy)-11β,17-dihydroxy-6α-methyl-1,4-pregnadiene-3,20-dione | 13.6 g | C(C)OCCC(=O)OCC([C@]1(CC[C@H]2[C@@H]3C[C@@H](C4=CC(C=C[C@]4(C)[C@H]3[C@H](C[C@]12C)O)=O)C)O)=O | C27H38O7
